US07893056B2
To a solution of phenylmethyl (4Z)-3,3-dimethyl-4-[(methyloxy)imino]-1-pyrrolidinecarboxylate (0.7126 g, 2.579 mmol) in THF (26 mL) was added borane-THF complex (1.0 M in THF, 5.2 mL, 5.2 mmol). The solution was heated at 50° C. and stirred for 2 h. The solution was then cooled to room temperature and quenched by addition of 6 N aq. NaOH (2 mL). The mixture was diluted with brine and extracted with Et2O (3×100 mL). The combined organic phase was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. To a solution of the residue in MeOH (20 mL) was added 50% aq. NH2OH (5 mL), and the solution was heated at 60° C. and stirred overnight. The solution was then cooled to room temperature and concentrated in vacuo. The residue was partitioned between DCM (200 mL) and 1 N aq. NaOH (50 mL), and the organic phase was dried over anhydrous MgSO4, filtered, and concentrated in vacuo to give racemic phenylmethyl 4-amino-3,3-dimethyl-1-pyrrolidinecarboxylate (0.5899 g, 92% yield) as a colorless oil. LCMS: (M+H)+: 249.1.

reactant | phenylmethyl (4Z)-3,3-dimethyl-4-[(methyloxy)imino]-1-pyrrolidinecarboxylate | 2.579 mmol, 0.7126 g | CC/1(CN(C\C1=N/OC)C(=O)OCC1=CC=CC=C1)C | C15H20N2O3
reactant | borane THF | 5.2 mmol, 1.0 M, 5.2 mL | B.C1CCOC1
solvent | THF | 26 mL | C1CCOC1 | C4H8O
product | racemic phenylmethyl 4-amino-3,3-dimethyl-1-pyrrolidinecarboxylate | 0.5899 g, 92% yield | NC1C(CN(C1)C(=O)OCC1=CC=CC=C1)(C)C | C14H20N2O2
